US07365069B2
N-(4-Methoxyphenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (12.11 g, 81 mmol) and 4-methoxyaniline (10 g, 81 mmol) by following the procedure described in preparation 10 (17 g, yield 76.84%, mp 166-168° C., purity 97.25% by HPLC). 1H-NMR (CDCl3):δ 2.51 (s, 3H), 3.80 (s, 3H), 4.80 (bs, 2H, D2O exchangeable), 6.91 (s, 4H), 7.26-7.29 (m, 2H), 7.78-7.8 (d, 2H). IR (KBr) cm−1: 3461, 3320, 2949, 2922, 2829, 1615. MS m/z:273.1 (M+).

reactant | 4-methylthiobenzonitrile | 81 mmol, 12.11 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 4-methoxyaniline | 81 mmol, 10 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | KBr | [K+].[Br-]
product | N-(4-Methoxyphenyl)-4-(methylthio)benzenecarboximidamide | yield 76.84% | COC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C15H16N2OS
